US05089498
Methyl 3-butyryl-4-(2-methylphenylamino)quinoline-8-carboxylate (0.3 g, 0.8 mmol) and potassium hydroxide (0.06 g, 1 mmol) were dissolved in ethanol (5 ml) and refluxed for 30 minutes, then the ethanol was evaporated, the product dissolved in water, the solution neutralised with dilute hydrochloric acid, and the solid filtered off and washed with water. Recrystallisation from ethanol gave 3-butyryl-4-(2-methyl-phenylamino)quinoline-8-carboxylic acid (0.18 g, 62%), m.p. 179-180°.

reactant | Methyl 3-butyryl-4-(2-methylphenylamino)quinoline-8-carboxylate | 0.8 mmol, 0.3 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C(=O)OC | C22H22N2O3
reactant | potassium hydroxide | 1 mmol, 0.06 g | [OH-].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-butyryl-4-(2-methyl-phenylamino)quinoline-8-carboxylic acid | 0.18 g, 62% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C(=O)O | C21H20N2O3
